US08207180B2
5-Bromo-2,5,6,7-tetrahydro-indazol-4-one (2B)
To a solution of 2,5,6,7-tetrahydro-indazol-4-one (5.28 mmol), optionally protected as the trityl derivative, in Et2O (20 mL) and AcOH (15 mL), at 0° C., a solution of Br2 (10.56 mmol) in AcOH (20 mL) was slowly added dropwise. The solution was then heated at 60° C. for 1h then the organic solvents were evaporated to dryness and the white precipitate was suspended in Et2O, filtered and dried. The title compound was obtained in 80% yield. ESI (+) MS: m/z 216 (MH+).

reactant | 2,5,6,7-tetrahydro-indazol-4-one | 5.28 mmol | N=1NC=C2C(CCCC12)=O | C7H8N2O
reactant | Br2 | 10.56 mmol | BrBr | Br2
solvent | Et2O | 20 mL | CCOCC | C4H10O
solvent | AcOH | 15 mL | CC(=O)O | C2H4O2
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
product | 5-Bromo-2,5,6,7-tetrahydro-indazol-4-one | 80% yield | BrC1C(C2=CNN=C2CC1)=O | C7H7BrN2O
